US06331538B1
1-Ethyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example 32, hydrogenation of 3-benzyloxy-1-ethyl-6-fluoro-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example Y-2, 187 mg, 0.450 mmol) and 10% Pd/C (35 mg) in MeOH (5 mL) afforded 105 mg of the title compound as a solid, mp 219-220° C. (decomp.).

reactant | 3-benzyloxy-1-ethyl-6-fluoro-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.450 mmol, 187 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCN(CC2)C)F)CC)=O | C21H24FN5O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 1-Ethyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 105 mg | C(C)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCN(CC2)C)=O)O)=O | C14H18FN5O3
